US08895547B2
(S)-3-[5-(3-Benzylphenyl)-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-ylamino]-3-phenylpropan-1-ol
Under inert gas, 1.72 ml of a 0.5 N solution of benzylzinc bromide in THF were added to a solution of 100 mg of [5-(3-bromophenyl)-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-2-yl]-[(S)-3-(tert-butyldimethylsilanyloxy)-1-phenylpropyl]amine and 14.1 mg of dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium in 2 ml of THF. After stirring at 60° C. for 18 hours, 2 ml of methanol and 0.5 ml of concentrated hydrochloric acid were added, and the reaction mixture was stirred at room temperature for 1 hour. The reaction solution was diluted with 20 ml of ethyl acetate and 10 ml of water and neutralized with aqueous sodium hydroxide solution, and the organic phase was washed once again with saturated aqueous sodium chloride solution, dried over MgSO4 and concentrated by rotary evaporation. The residue was purified in a purification laboratory by means of preparative HPLC. The product-containing fractions were combined, extracted with dichloromethane and concentrated by rotary evaporation. The residue was purified further by means of normal phase chromatography using a Flashmaster with an n-heptane/ethyl acetate gradient. The product-containing fractions were combined and concentrated by rotary evaporation, and the residue was taken up again in a mixture of acetonitrile and water and lyophilized. This gave the product (38.2 mg) with a molecular weight of 478.6 g/mol (C27H30N2O4S); MS (ESI): m/e=479 (M+H+).

reactant | benzylzinc bromide | [Br-].C(C1=CC=CC=C1)[Zn+]
reactant | [5-(3-bromophenyl)-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-2-yl]-[(S)-3-(tert-butyldimethylsilanyloxy)-1-phenylpropyl]amine | 100 mg | BrC=1C=C(C=CC1)C1S(N=C(OC1(C)C)N[C@@H](CCO[Si](C)(C)C(C)(C)C)C1=CC=CC=C1)(=O)=O | C26H37BrN2O4SSi
reactant | methanol | 2 ml | CO | CH4O
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 10 ml | O | H2O
solvent | sodium hydroxide | [OH-].[Na+]
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 14.1 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (S)-3-[5-(3-Benzylphenyl)-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-ylamino]-3-phenylpropan-1-ol | 38.2 mg | C(C1=CC=CC=C1)C=1C=C(C=CC1)C1S(N=C(OC1(C)C)N[C@@H](CCO)C1=CC=CC=C1)(=O)=O | C27H30N2O4S
